US06809110B2
In analogy to the procedure described in example 17 a], (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one (for the preparation of (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one see: D. Haigh, H. C. Birrell, B. C. C. Cantello, D. S. Eggleston, R. C. Haltiwanger, R. M. Hindley, A. Ramaswamy, N. C. Stevens, Tetrahedron: Asymmetry 1999, 10, 1353-1367) was reacted with 4-benzyloxy-2,6-dimethyl-benzaldehyde in the presence of triethylamine and di-n-butylboron triflate to give (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxy-2,6-dimethyl-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one as colorless liquid. According to 1H-NMR spectroscopy, one of the four isomers is strongly predominating. The configuration was tentatively assigned as 2S,3R according to D. Haigh et al., Tetrahedron: Asymmetry 1999, 10, 1353-1367.

reactant | (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COCC)=O | C14H17NO4
reactant | 4-benzyloxy-2,6-dimethyl-benzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C(=C1)C)C | C16H16O2
reactant | di-n-butylboron triflate | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxy-2,6-dimethyl-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=C(C=C(C=C1C)OCC1=CC=CC=C1)C)OCC)=O | C30H33NO6
